Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ___
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
CC: food impaction

 
Major Surgical or Invasive Procedure:
___ upper endoscopy with removal of impacted food
 
History of Present Illness:
HPI: The patient is a ___ male w/no significant PMHx who
presented with food impaction.  He was in his usual state of
health until around 5 ___ while eating steak he felt food become
stuck in his throat.  He had difficulty tolerating his
secretions, although he denied chest pain or shortness of 
breath.
He initially had some difficulty speaking which have been
improved by the time he arrived to the emergency department on
___.  He was seen at twice daily ___, lateral and neck x-ray
and chest x-ray were performed and were unremarkable.  A trial 
of
glucagon did not result in any improvement, and he was unable to
tolerate sips of water.  As a result he was transferred to the
___ emergency department.  Nothing like this has happened to
him before.

In the ED: Vitals were unremarkable, he was seen and found to be
"drooling, spitting up secretions."  Gastroenterology was
consulted, and he was transferred to the endoscopy suite where a
disimpaction via upper endoscopy was performed.  Postprocedure 
he
had a significant oxygen requirement, and so is admitted for
monitoring, and weaning of oxygen.

Seen on the floor, he is doing well, and feels well.  He denies
shortness of breath or cough, fevers or chills.  He confirms he
is not on oxygen at home.  He does endorse a significant smoking
history, he quit ___ years ago, however prior to that he smoked
for at least ___ years 1 pack per day.  He has had chest x-rays
prior to this one, although has never been told without any
abnormalities.  He understands the situation, and the plan of
care.  He has no questions for me.

ROS: [x] As per above HPI, otherwise reviewed and negative in 
all
systems

Primary Care Provider: ___, MD

 
Past Medical History:
PMHx:
BPH
No hospitalizations other than for the procedures noted below

PSHx:
Partial colectomy with ostomy creation, and then takedown,
approximately ___ years ago, performed at ___ for
perforated diverticulitis
Recent colonoscopy unremarkable
Left hip fracture due to a motorcycle accident in his ___,
repaired with screws at that time       
 
Social History:
___
Family History:
FHx:
No family history of esophageal swallowing problems, however his
father did die of esophageal cancer at age ___
No other family history of cancers, other than skin cancers

 
Physical Exam:
Admission Physical Exam:
VS: T 98.4, BP 135/79, HR 101, RR 18, O2 sat 94% on 2 L nasal
cannula
Lines/tubes: PIV
Older man lying in bed, alert, cooperative, NAD.  Anicteric, 
PERRL, MMM.  Equal chest rise, good air movement bilaterally 
posteriorly, no work of breathing, or cough.  He does have 
inspiratory crackles bilaterally at the bases, no rhonchi or 
wheezes.  Heart regular.  No murmurs.  Abdomen soft, NT ND.  
Extremities warm, no pitting edema.  Speaking easily, no obvious 
focal neurological deficits.  Oriented ×3.

Discharge Physical Exam
Same as above except now off oxygen
T 98.4, BP 129/68, HR 73, RR 18, O2 sat 94% on RA
 
Pertinent Results:
Admission Labs
___ 09:39PM URINE  MUCOUS-RARE
___ 09:39PM URINE  RBC-2 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-0
___ 09:39PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-NEG
___ 09:39PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:39PM URINE  UHOLD-HOLD
___ 09:39PM URINE  HOURS-RANDOM
___ 10:30PM   ___ PTT-32.8 ___
___ 10:30PM   PLT COUNT-343
___ 10:30PM   NEUTS-75.5* LYMPHS-14.9* MONOS-6.2 EOS-2.6 
BASOS-0.5 IM ___ AbsNeut-8.74* AbsLymp-1.73 AbsMono-0.72 
AbsEos-0.30 AbsBaso-0.06
___ 10:30PM   WBC-11.6* RBC-4.89 HGB-14.7 HCT-42.6 MCV-87 
MCH-30.1 MCHC-34.5 RDW-12.8 RDWSD-39.9
___ 10:30PM   estGFR-Using this
___ 10:30PM   GLUCOSE-92 UREA N-13 CREAT-0.8 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-22 ANION GAP-18

Imaging
___ CXR
IMPRESSION: There are no prior chest radiographs available for 
review.  Heart size normal.  Lungs clear.  No pleural 
abnormality.  Normal hilar and mediastinal contours.

Procedures
___ EGD
Impression: A large amount of solid food consistent with steak
was found in esophageal lumen. This was removed using ___ net
and rat tooth forceps. A large bolus of food could ultimately be
pushed down into the stomach. (foreign body removal)
Esophageal ring
Otherwise normal EGD to third part of the duodenum 
Recommendations: - Wean oxygen as able 
- Omeprazole 20 mg BID (30 minutes breakfast) till next 
endoscopy
- Repeat EGD for possible dilation in 14 days in ___
- Liquid diet for 24 hours and soft solid after that 

Discharge Labs
Same as admission -- no others were checked

 
Brief Hospital Course:
___ man with no significant past medical history now 
presenting with esophageal food impaction, likely related to 
esophageal ring, status post upper endoscopy with disimpaction, 
with ongoing oxygen requirement suspected due to atelectasis.

The day of discharge, he ate tuna fish and other soft foods 
without difficulty.  He was seen by Nutrition who instructed him 
on a soft diet and gave him handouts.  He has their clinic phone 
number for any questions.

#Persistent O2 requirement after upper endoscopy
-Suspected due to atelectasis based on chest imaging, although 
given his significant smoking history it is possible that there 
is a component of obstructive lung disease
-Given the lack of wheezing on exam, we treated this with 
incentive spirometry, and ambulation, and were able to wean his 
oxygen easily

#Esophageal food impaction, associated with esophageal ring
-Per gastroenterology recommendations, we will have him on 
omeprazole 20 mg p.o. twice daily, and a soft diet as noted 
above, and he will ___ with them in 2 weeks for a dilation

#Benign prostatic hypertrophy
-Continue home finasteride and tamsulosin

#Advance care planning
- Health Care Proxy: as per ___, he identifies his wife
- Care ___: He has thought about the kind of care he 
would want if he were to get very sick some day.  He does say "I 
do not want to be dead, but I do not want to be in any pain or 
discomfort.  I would rather go ___ years early if that is what it
meant."  He states he has talked with his wife about his wishes.

The patient was safe to discharge and on the day of discharge I 
spent >30min in discharge day services and coordination of care.

________________________________________
___, MD
___
Pager ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO QHS 
2. Finasteride 5 mg PO DAILY 
3. Grape Seed (grape seed extract) unk unk oral DAILY 
4. Glucosamine-Chondroitin Max St (glucosamine-chondroit-vit 
C-Mn) unk unk oral DAILY 

 
Discharge Medications:
1.  Omeprazole 20 mg PO BID 
RX *omeprazole 20 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 
2.  Finasteride 5 mg PO DAILY  
3.  Glucosamine-Chondroitin Max St (glucosamine-chondroit-vit 
C-Mn) unk unk oral DAILY  
4.  Grape Seed (grape seed extract) unk unk oral DAILY  
5.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Esophageal food impaction
#Esophageal web
#Benign prostatic hypertrophy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted after suffering a food impaction in your 
esophagus.  This was likely due to an "esophageal ring" which is 
a narrowing in the esophagus.  You had an endoscopy and the food 
was removed.  After the procedure you tolerated a soft diet 
without difficulty.  You should continue this diet, and the acid 
reducing pill (omeprazole) at least until you are seen by 
Gastroenterology in two weeks as noted below.
 
Followup Instructions:
___